US05175301
1-(6-Chloro-3-pyridylmethyl)amino-1-methylamino-2-methanesulfonylthiocarbamoyl-2-nitroethylene (Compound 117)
In 50 ml of CH3CN was dissolved 0.50 g (0.002 mole) of 1-(6-chloro-3-pyridylmethyl)amino-1-methylamino-2-nitroethylene, followed by addition of 0.30 g (0.002 mole) of methanesulfonyl isothiocyanate. The mixture was stirred at room temperature for 2 hours. The CH3CN was distilled off and the residue was purified by silica gel column chromatography. The procedure gave 0.25 g of the title compound as yellow crystals.

reactant | 1-(6-chloro-3-pyridylmethyl)amino-1-methylamino-2-nitroethylene | 0.002 mole, 0.50 g | ClC1=CC=C(C=N1)CNC(=C[N+](=O)[O-])NC | C9H11ClN4O2
reactant | methanesulfonyl isothiocyanate | 0.002 mole, 0.30 g | CS(=O)(=O)N=C=S | C2H3NO2S2
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 1-(6-Chloro-3-pyridylmethyl)amino-1-methylamino-2-methanesulfonylthiocarbamoyl-2-nitroethylene | 0.25 g | ClC1=CC=C(C=N1)CNC(=C([N+](=O)[O-])C(NS(=O)(=O)C)=S)NC | C11H14ClN5O4S2
